US07217722B2
Ethyl 4-(1H-5-indazolylamino)-1-cyclohexanecarboxylate
Ethyl 4-oxocyclohexanecarboxylate (0.85 g) and 5-aminoindazole (0.60 g) were dissolved in methanol (10 ml) thereto, and a borane-pyridine complex (0.81 ml) was added dropwise to the solution at room temperature. The reaction mixture was stirred at room temperature for 18 hr. A saturated aqueous sodium hydrogencarbonate solution (10 ml) was then added thereto, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel [chloroform/methanol] to give the title compound (1.37 g) as substantially 1:1 enantiomers.

reactant | Ethyl 4-oxocyclohexanecarboxylate | 0.85 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | 5-aminoindazole | 0.60 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | Ethyl 4-(1H-5-indazolylamino)-1-cyclohexanecarboxylate | 1.37 g | N1N=CC2=CC(=CC=C12)NC1CCC(CC1)C(=O)OCC | C16H21N3O2
